US06147216
Step h: 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid
Fit a jacketed glass cell of about 50 mL capacity with an expanded silver mesh cathode (14 cm2 geometric area), a roughly concentric magnesium sacrificial anode, a tube to deliver carbon dioxide gas and a magnetic stir bar. Add a solution of hydrogen chloride remediated 1-[4-(1-bromo-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one and 1-[4-(1-chloro-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one (2.79 g, 89 mole %, 3:1 ratio of tertiary benzylic bromide to tertiary benzylic chloride by NMR, approximately 8.6 mmol total active tertiary benzylic halide) in acetonitrile (45 mL) and tetraethylammonium bromide (0.19 g). Close the cell and cool to -10° C. with a continuous carbon dioxide sparge for 169 minutes at an average current density of 13 mA cm-2. Warm to contents of the cell to ambient temperature, drain the contents, acidify with chilled aqueous 6M hydrochloric acid, extract and evaporate the solvent in vacuo to give the title compound (1.53 g, 66%).

reactant | magnesium | [Mg] | Mg
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrogen chloride | Cl | ClH
reactant | 1-[4-(1-bromo-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one | BrC(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C13H16BrClO
reactant | 1-[4-(1-chloro-1-methyl-ethyl)-phenyl]-4-chloro-butan-1-one | 2.79 g | ClC(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C13H16Cl2O
solvent | acetonitrile | 45 mL | C(C)#N | C2H3N
catalyst | tetraethylammonium bromide | 0.19 g | [Br-].C(C)[N+](CC)(CC)CC
catalyst | silver | [Ag] | Ag
product | 2-[4-(4-Chloro-butyryl)-phenyl]-2-methyl-propionic Acid | 1.53 g, 66% | ClCCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C14H17ClO3
